US06201027B1
3-{[3-Bromo-4-(methylsulfonyl)-phenyl]methylene}-2,4-pentanedione
To a solution containing 0.68 g 3-bromo-4-methylsulfonylbenzaldehyde, 0.03 ml piperidine and 0.02 ml formic acid in 20 ml DMF was added 0.59 ml 2,4-pentanedione with stirring at 20° C. The solution was stirred overnight at 20° C. and poured into water. The product was extracted with ethyl acetate, washed with water and evaporated to dryness in vacuo. The residue was crystallized from methanol, yield 0.18 g (20%), mp 135-139° C. 1H-NMR (DMSO-d6, 400 MHz): 2.28 (s, 3 H, CH3), 2.50 (s, 3 H, CH3), 3.36 (s, 3 H, CH3), 7.60 (d, 1 H, Ar), 7.99 (d, 1 H, Ar), 8.12 (d, 1 H, Ar), 7.71 (s, 1 H, CH).

reactant | 3-bromo-4-methylsulfonylbenzaldehyde | 0.68 g | BrC=1C=C(C=O)C=CC1S(=O)(=O)C | C8H7BrO3S
reactant | piperidine | 0.03 ml | N1CCCCC1 | C5H11N
reactant | formic acid | 0.02 ml | C(=O)O | CH2O2
reactant | 2,4-pentanedione | 0.59 ml | CC(CC(C)=O)=O | C5H8O2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-{[3-Bromo-4-(methylsulfonyl)-phenyl]methylene}-2,4-pentanedione | BrC=1C=C(C=CC1S(=O)(=O)C)C=C(C(C)=O)C(C)=O | C13H13BrO4S
